US06897210B2
A mixture of 44-chloro-2-fluoroanilino)-7-hydroxy-6-methoxyquinazoline (957 mg, 3 mmol), (prepared as described for the starting material in Example 2), 1-bromo-3-chloropropane (2.36 g, 15 mmol) and potassium carbonate (2.1 g, 15 mmol) in DMF (20 ml) was heated at 40° C. for 1.5 hours. The mixture was allowed to cool, was diluted with water and extracted with ethyl acetate (3×50 ml). The organic extracts were combined, washed with water and brine, dried (MgSO4) and the volatiles were removed by evaporation. The residue was triturated with hexane/ethyl acetate, collected by filtration and dried under vacuum to give 4-chloro-2-fluoroanilino)-7-(3-chloropropoxy)6-methoxyquinazoline (650 mg, 55%).

reactant | 7-hydroxy-6-methoxyquinazoline | 3 mmol, 957 mg | OC1=C(C=C2C=NC=NC2=C1)OC | C9H8N2O2
reactant | 1-bromo-3-chloropropane | 15 mmol, 2.36 g | BrCCCCl | C3H6BrCl
reactant | potassium carbonate | 15 mmol, 2.1 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 7-(3-chloropropoxy)6-methoxyquinazoline | 650 mg, 55% | ClCCCOC1=C(C=C2C=NC=NC2=C1)OC | C12H13ClN2O2
